US07825255B2
2-Chloro-4-phenyl-6-(phenylsulfanyl)-3,5-pyridinedicarbonitrile
Under argon, 24.5 g (182 mmol) of anhydrous copper(II) chloride are suspended in 180 ml of acetonitrile, and 21.4 g (182 mmol) of isopentyl nitrite are then added dropwise. After 20 minutes of stirring at room temperature, 10 g (30.5 mmol) of 2-amino-4-phenyl-6-(phenylsulfanyl)-3,5-pyridinedicarbonitrile [Kambe et al., Synthesis, 531-533 (1981)] are added. The mixture is stirred at room temperature over the weekend. For work-up, 150 ml of 1 N hydrochloric acid are added to the mixture, the mixture is extracted 4× with dichloromethane and the organic phase is washed once with saturated sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue is triturated with a little ethyl acetate and allowed to stand in a fridge for one hour. The crystals are filtered off with suction and washed with a little cold ethyl acetate and diethyl ether.

reactant | isopentyl nitrite | 182 mmol, 21.4 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-amino-4-phenyl-6-(phenylsulfanyl)-3,5-pyridinedicarbonitrile | 30.5 mmol, 10 g | NC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)SC1=CC=CC=C1 | C19H12N4S
reactant | hydrochloric acid | 1 N, 150 ml | Cl | ClH
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 182 mmol, 24.5 g | [Cu](Cl)Cl
product | 2-Chloro-4-phenyl-6-(phenylsulfanyl)-3,5-pyridinedicarbonitrile | ClC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)SC1=CC=CC=C1 | C19H10ClN3S
